US03933794
A solution of (0.025 mole) of 1,3-dihydro-7-chloro-5-(2-chlorophenyl)-2H-1,4-benzodiazepin-2-one in about 500 ml. of pyridine is treated with 5.55 g. (0.025 mole) of phosphorus pentasulfide and heated under reflux in a nitrogen atmosphere for 2 hours. The pyridine is removed in vacuo and the thus-produced residue is poured onto crushed ice. The aqueous phase is extracted with methylene chloride and then discarded. The extract is washed successively with three 200-ml. portions of water and 100 ml. of brine, and dried over anhydrous sodium sulfate. Removal of the solvent gives a solid which is recrystallized from ethanol-water, to give crude material which, after recrystallization from ethanolwater, gives pure 1,3-dihydro-7-chloro-5-(2-chlorophenyl)-2H-1,4-benzodiazepine-2-thione, melting point 251°-253° C.

reactant | 1,3-dihydro-7-chloro-5-(2-chlorophenyl)-2H-1,4-benzodiazepin-2-one | 0.025 mole | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1 | C15H10Cl2N2O
reactant | phosphorus pentasulfide | 0.025 mole | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-dihydro-7-chloro-5-(2-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10Cl2N2S
